US08729068B2
To a mixture of 2.0 g of 2-(trimethylsilyl)ethyl 3-(chlorosulfonyl)benzoate and 40 mL of dichloromethane were added 5.0 mL of pyridine, 1.0 g of methyl 6-aminonicotinate, and 761 mg of N,N-dimethylpyridin-4-amine, followed by stirring at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure, and then to the residue was added a 10% aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution, and saturated brine in this order and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and then the obtained residue was purified by silica gel column chromatography (chloroform-ethyl acetate) to obtain 1.8 g of methyl 6-{[(3-{[2-(trimethylsilyl)ethoxy]carbonyl}phenyl)sulfonyl]amino}nicotinate as a colorless powder.

reactant | 2-(trimethylsilyl)ethyl 3-(chlorosulfonyl)benzoate | 2.0 g | ClS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C12H17ClO4SSi
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
reactant | methyl 6-aminonicotinate | 1.0 g | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
catalyst | N,N-dimethylpyridin-4-amine | 761 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | methyl 6-{[(3-{[2-(trimethylsilyl)ethoxy]carbonyl}phenyl)sulfonyl]amino}nicotinate | 1.8 g | C[Si](CCOC(=O)C=1C=C(C=CC1)S(=O)(=O)NC1=NC=C(C(=O)OC)C=C1)(C)C | C19H24N2O6SSi
